US06355653B1
5-Amino-2-furan-2-yl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carbonitrile
The title compound, MS m/e (%): 303 (M+H+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and 4-pyridinylmethylen-propanedinitril.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | 4-pyridinylmethylen-propanedinitril | N1=CC=C(C=C1)C=C(C#N)C#N | C9H5N3
product | 5-Amino-2-furan-2-yl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carbonitrile | NC1=C(C(=CC=2N1N=C(N2)C=2OC=CC2)C2=CC=NC=C2)C#N | C16H10N6O
